US05171871
Synthesis of Complex: Methylenebis(cyclopentadienyl)titanium-methylalumoxane (16-mer)
97.2 mg (0.372 mmol) of dichloromethylenebis(cyclopentadienyl)titanium was weighed out. Thereto 20 ml of dry toluene was added, and the mixture was cooled to a temperature of -78° C. 2.98 mmol of methylalumoxane (16-mer ) in toluene was added thereto dropwise with stirring, and the mixture was allowed to react at 50° C. for 6 hours. Then 20 ml of hexane was added to deposit a reddish brown solid. The solid was collected by filtration, recrystallized from toluene/hexane, and dried. The intended product was obtained in a yield of 71%.

reactant | dichloromethylenebis(cyclopentadienyl)titanium | 0.372 mmol, 97.2 mg | ClC(Cl)=[Ti](C1C=CC=C1)C1C=CC=C1
reactant | methylalumoxane | 2.98 mmol | C[Al]1OCCCC1
reactant | hexane | 20 ml | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Methylenebis(cyclopentadienyl)titanium methylalumoxane | yield of 71% | C=[Ti](C1C=CC=C1)C1C=CC=C1.C[Al]1OCCCC1 | InChI=1S/2C5H5.C4H8O.CH3.CH2.Al.Ti/c2*1-2-4-5-3-1;1-2-3-4-5;;;;/h2*1-5H;1-4H2;1H3;1H2;;/q;;-1;;;+1;
